US05455274
A stirred solution of 4-hydroxy-N,N-bis(1-methylethyl)benzamide (2.47 g, 11.2 mmol) in 50 mL of N,N-dimethylformamide is treated with 60% sodium hydride (500 mg, 12.5 mmol). After stirring at 0° C. for 10 minutes, the reaction is treated with 5-(4-cyanophenoxy)pentyl chloride (3.25 g, 14.5 mmol) and stirred at 70° C. for 2 hours. The reaction is partitioned between ethyl acetate and water. The organic layer is washed with water and brine, dried over sodium sulfate, and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (60 g) with 70-80% ethyl acetate/hexane as the eluent to afford 4-[5-(4-cyanophenoxy)pentyloxy]N,N-bis(1-methylethyl)benzamide.

reactant | 4-hydroxy-N,N-bis(1-methylethyl)benzamide | 11.2 mmol, 2.47 g | OC1=CC=C(C(=O)N(C(C)C)C(C)C)C=C1 | C13H19NO2
reactant | sodium hydride | 12.5 mmol, 500 mg | [H-].[Na+]
reactant | 5-(4-cyanophenoxy)pentyl chloride | 14.5 mmol, 3.25 g | C(#N)C1=CC=C(OCCCCCCl)C=C1 | C12H14ClNO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-[5-(4-cyanophenoxy)pentyloxy]N,N-bis(1-methylethyl)benzamide | C(#N)C1=CC=C(OCCCCCOC2=CC=C(C(=O)N(C(C)C)C(C)C)C=C2)C=C1 | C25H32N2O3
